US08735424B2
A solution of 4-(benzyloxy)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (1.0 equiv.), 6-(thiazol-2-yl)pyridin-2-yl trifluoromethanesulfonate (1.0 equiv.) and Pd(dppf)Cl2—CH2Cl2 (0.1 equiv.) in 3:1 DME/2M Na2CO3 was heated in a microwave at 120° C. for 20 minutes. Upon cooling, the solution was partitioned between EtOAc and H2O. Upon separation, the organic layer was washed with NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (EtOAc eluant) to yield 2-(6-(4-(benzyloxy)quinolin-6-yl)pyridin-2-yl)thiazole (39%). LC/MS=396.0 (M+H), LC=3.34 min.

reactant | 4-(benzyloxy)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 1.0 equiv. | C(C1=CC=CC=C1)OC1=CC=NC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C22H24BNO3
reactant | 6-(thiazol-2-yl)pyridin-2-yl trifluoromethanesulfonate | 1.0 equiv. | FC(S(=O)(=O)OC1=NC(=CC=C1)C=1SC=CN1)(F)F | C9H5F3N2O3S2
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.1 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 2M | COCCOC | C4H10O2
product | 2-(6-(4-(benzyloxy)quinolin-6-yl)pyridin-2-yl)thiazole | 39% | C(C1=CC=CC=C1)OC1=CC=NC2=CC=C(C=C12)C1=CC=CC(=N1)C=1SC=CN1 | C24H17N3OS
